US05157041
In a manner analogous to that described in Example 33, from 0.225 g of dicyclohexylcarbodiimide, 0.135 g of hydroxybenzotriazole, 0.115 g of N-ethylmorpholine, 0.38 g of N2 -[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N1 -benzyl-L-prolinamide and 0.266 g of N-(benzyloxycarbonyl)-L-asparagine there was obtained 0.056 g of N1 -benzyl-N2 -[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-L-prolinamide as a white solid; MS: m/e 616 [M+H]+.

reactant | dicyclohexylcarbodiimide | 0.225 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | hydroxybenzotriazole | 0.135 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-ethylmorpholine | 0.115 g | C(C)N1CCOCC1 | C6H13NO
reactant | N2 [3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N1 -benzyl-L-prolinamide | 0.38 g | N#N.N[C@H]([C@@H](C[C@@]1(N(CCC1)CC1=CC=CC=C1)C(=O)N)O)CC1=CC=CC=C1
reactant | N-(benzyloxycarbonyl)-L-asparagine | 0.266 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)O | C12H14N2O5
product | N1 -benzyl-N2 -[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-L-prolinamide | 0.056 g | C(C1=CC=CC=C1)N1[C@H](C(=O)NC[C@H]([C@H](CC2=CC=CC=C2)NC([C@@H](NC(=O)OCC2=CC=CC=C2)CC(N)=O)=O)O)CCC1 | C34H41N5O6
